US07176208B2
The quinoxalin-2-one of the present example is prepared with 3,4-diaminophenol (which is prepared by treating 3,4-dinitrophenol with H2NNH2.H2O, Pd/C refluxed in MeOH), and (thiophen-2-yl) oxo-acetic acid via the method described in Example 12 to afford 6-hydroxy-3-thiophen-2-yl-1H-quinoxalin-2-one.

reactant | 3,4-diaminophenol | NC=1C=C(C=CC1N)O | C6H8N2O
reactant | (thiophen-2-yl) oxo-acetic acid | S1C(=CC=C1)C(C(=O)O)=O | C6H4O3S
product | 6-hydroxy-3-thiophen-2-yl-1H-quinoxalin-2-one | OC=1C=C2N=C(C(NC2=CC1)=O)C=1SC=CC1 | C12H8N2O2S
